US06992087B2
Preparation of N-(5-bromo-3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting N-(3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 8.49, 7.67, 7.17, 5.77, 4.55, 3.21, 3.09, 2.85-2.75, 2.58, 1.97, 1.31-1.25; HRMS (FAB) calcd for C16H19BrN4+H 347.0872, found 347.0878.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | N-(3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCC2=NC=CC=C21 | C16H20N4
product | N-(5-bromo-3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine | BrC=1N=C(C(=NC1CC)NC1CCC2=NC=CC=C21)CC | C16H19BrN4
